US07504392B2
h) 6-Ethoxy-7-(4-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-isoquinoline
To an ice bath cooled solution of 6-ethoxy-2-(2,2,2-trifluoro-ethanoyl)-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl fluoride (1.30 g, 3.66 mmol) in THF (13 mL) was added dropwise 4-fluorophenylmagnesium bromide (18.3 mL, 18.3 mmol). The mixture was stirred at room temperature overnight before quenching with aqueous sodium potassium tartrate tetrahydrate (13 g). The aqueous was extracted twice with diethyl ether. The organics were combined, dried and evaporated to dryness. The resulting oil was purified by chromatography on silica, eluting with 1 to 10% MeOH/NH3 in dichloromethane to yield the title compound D31 as a solid (700 mg). MH+ 336. 1H NMR δ (CDCl3)1.22-1.37 (3H, t), 2.74-2.91 (2H, m), 3.08-3.19 (2H, t), 4.01 (2H, s), 4.13-4.25 (2H, m), 6.58 (1H, s), 7.06-7.20 (2H, m), 7.83 (1H, s), 7.91-8.01 (2H, m).

reactant | 6-ethoxy-2-(2,2,2-trifluoro-ethanoyl)-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl fluoride | 3.66 mmol, 1.30 g | C(C)OC=1C=C2CCN(CC2=CC1S(=O)(=O)F)C(C(F)(F)F)=O | C13H13F4NO4S
reactant | 4-fluorophenylmagnesium bromide | 18.3 mmol, 18.3 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 6-Ethoxy-7-(4-fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-isoquinoline | C(C)OC=1C=C2CCNCC2=CC1S(=O)(=O)C1=CC=C(C=C1)F | C17H18FNO3S
